US07951824B2
2′-Chloro-5′-fluoro-6-methyl-[4,4′]bipyridinyl-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide
The title compound, was prepared from 6-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide in accordance with the general method of example 131, step 2 using 2-Chloro-5-fluoro-4-iodopyridine instead of 3-Trifluoromethyl-5-bromopyridine to yield the final compound as a off-white solid, MS (ISP): m/e=363.2, 365.1 (M+H)+.

reactant | 6-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide | CC=1N=C(SC1)NC(=O)C1=NC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C | C17H22BN3O3S
reactant | 2-Chloro-5-fluoro-4-iodopyridine | ClC1=NC=C(C(=C1)I)F | C5H2ClFIN
product | 2′-Chloro-5′-fluoro-6-methyl-[4,4′]bipyridinyl-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide | CC=1N=C(SC1)NC(=O)C1=NC(=CC(=C1)C1=CC(=NC=C1F)Cl)C | C16H12ClFN4OS
